US05177096
A mixture of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-carboxaldehyde (2 mmol), 2-thienylacetic acid (2.3 mmol), potassium carbonate (0.91 mmol), and acetic anhydride (1 mL) is heated gradually to 140° C. and held at this temperature for 6 hours. The cooled reaction is diluted with water and the solid is separated, triturated several times with ether, and the solid is crystallized to give (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)-2-propenoic acid. The title tetrazole compound is prepared from this acid by the procedure described in Example 1.

reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-carboxaldehyde | 2 mmol | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=CC=C1)Cl | C15H17ClN2O
reactant | 2-thienylacetic acid | 2.3 mmol | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | potassium carbonate | 0.91 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)-2-propenoic acid | C(CCC)C=1N(C(=CN1)/C=C(\C(=O)O)/C=1SC=CC1)CC1=C(C=CC=C1)Cl | C21H21ClN2O2S
